US08080669B2
Preparation of 4-[2-(5-Amino-2-methyl-phenylamino)-oxazol-5-yl]-benzo-nitrile
A solution of N-(5-Amino-2-methyl-phenyl)-acetamide (1.1 g, 6.7 mmol) in DMF (20 mL) was added to a suspension of NaH (402 mg, 10.05 mmol, 60% dispersion in mineral oil) in DMF (20 mL) at 0° C. under an atmosphere of argon. The mixture was stirred for 30 min. at room temperature and cooled to 0° C. A solution of 4-(2-Chloro-oxazol-5-yl)-benzonitrile (1.37 g, 6.7 mmol) in DMF (20 mL) was added dropwise to the mixture. After 30 min., at 0° C., the reaction was poured into ice water (200 mL). The solid was collected by filtration, washed with water, and dried under vacuum to afford the title compound (1.45 g, 75%). m.p.=228° C.

reactant | N-(5-Amino-2-methyl-phenyl)-acetamide | 6.7 mmol, 1.1 g | NC=1C=CC(=C(C1)NC(C)=O)C | C9H12N2O
reactant | NaH | 10.05 mmol, 402 mg | [H-].[Na+]
reactant | 4-(2-Chloro-oxazol-5-yl)-benzonitrile | 6.7 mmol, 1.37 g | ClC=1OC(=CN1)C1=CC=C(C#N)C=C1 | C10H5ClN2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-[2-(5-Amino-2-methyl-phenylamino)-oxazol-5-yl]-benzo-nitrile | 1.45 g, 75% | NC=1C=CC(=C(C1)NC=1OC(=CN1)C1=CC=C(C#N)C=C1)C | C17H14N4O
